* C:\Users\robin\OneDrive\Documenten\School\Fontys\Minor\Be creative minor\Git\Audio-DSP\LTspice\Front-end\VU-meter.asc
XU1 N007 N001 +15VD -15VD N005 LT6220
V1 +15VD 0 15
V2 0 -15VD 15
XU2 N006 N002 +15VD -15VD VRECT LT6220
R1 N007 Audio 100k
C1 N001 N005 47p
D1 N001 N005 1N4148
D2 N005 N006 1N4148
R2 N006 0 10k
R3 N002 N001 10k
R4 VRECT N002 10k
V3 Audio 0 SINE(0 1 1k)
XU3 +2.5V_REF N003 +5VD 0 N004 LT6220
V4 +5VD 0 5
R5 N004 N003 100k
R6 VLPF N008 8k
XU4 +2.5V_REF N009 +5VD 0 N010 LT6220
R7 N010 N009 100k
R8 N008 N011 4k
XU5 +2.5V_REF N012 +5VD 0 N013 LT6220
R9 N013 N012 100k
R10 N011 N014 2k
XU6 +2.5V_REF N015 +5VD 0 N016 LT6220
R11 N016 N015 100k
R12 N014 N017 1k
R13 N017 0 1k
R14 N003 N008 10k
R15 N009 N011 10k
R16 N012 N014 10k
R17 N015 N017 10k
R18 VLPF VRECT 1k
C2 VLPF 0 100n
R19 +2.5V_REF 0 1k
R20 +5VD +2.5V_REF 1k
C3 +2.5V_REF 0 100n
.model D D
.lib C:\Users\robin\OneDrive\Documenten\LTspiceXVII\lib\cmp\standard.dio
.tran 0 4m 0
* Precision rectifier
* Uitgang hoog of laag trekken?
* LPF
.lib LTC4.LIB
.backanno
.end
